US04348521
A mixture of 0.0765 mole (15 g) of 8-chloro-1,3-dimethyl-1,2,3,4-tetrahydroquinoxaline and 0.0765 mole (16.5 g) of diethyl ethoxymethylenemalonate was heated under a nitrogen atmosphere at 145° to 150° C. for about 75 minutes. The solution was cooled, 70 g of polyphosphoric acid were added and the mixture was heated under nitrogen at 110° to 120° C. for 45 minutes. The hot solution was poured into water with stirring and a white solid precipitated. The product was recrystallized from ethanol to provide ethyl 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate, m.p. 259°-261° C. Analysis: Calculated for C16H17ClN2O3 : %C, 60.0, %H, 5.35; %H, 8.75; Found: %C, 60.0; %H, 5.3; %N, 8.9.

reactant | 8-chloro-1,3-dimethyl-1,2,3,4-tetrahydroquinoxaline | 0.0765 mole, 15 g | ClC=1C=CC=C2NC(CN(C12)C)C | C10H13ClN2
reactant | diethyl ethoxymethylenemalonate | 0.0765 mole, 16.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | O | H2O
product | ethyl 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | ClC1=CC=C2C=3N(C(CN(C13)C)C)C=C(C2=O)C(=O)OCC | C16H17ClN2O3
